US07932251B2
Di-tert-butyl dicarbonate (4 g) was added to a solution of 3,3-dimethylpiperazin-2-one hydrochloride (3 g) and DIPEA (3 ml) in DCM-MeOH (100 ml-30 ml). The mixture was stirred at room temperature for 2 days, then washed with water (100 ml×2), organic layer was dried over sodium sulphate, solvent was removed, and the residue was then columned on silica gel using 9:1 DCM:MeOH as eluant to give tert-butyl 2,2-dimethyl-3-oxopiperazine-1-carboxylate (3.6 g)

reactant | Di-tert-butyl dicarbonate | 4 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 3,3-dimethylpiperazin-2-one hydrochloride | 3 g | Cl.CC1(C(NCCN1)=O)C
reactant | DIPEA | 3 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM MeOH | 100 ml-30 ml | C(Cl)Cl.CO
product | tert-butyl 2,2-dimethyl-3-oxopiperazine-1-carboxylate | 3.6 g | CC1(N(CCNC1=O)C(=O)OC(C)(C)C)C | C11H20N2O3
